US05877174
A mixture of 4.5 g of 1-(2-bromoethyl)-4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazine, 1.03 g of sodium azide and 45 ml of N,N-dimethylformamide was stirred at 80° C. for 1 hour and then distilled under reduced pressure to remove the solvent. To the resulting residue were added 60 ml of ethyl acetate and 30 ml of water, and the pH was adjusted to 3 with 2N hydrochloric acid. The organic layer was separated and the aqueous layer was extracted with two 30-ml portions of ethyl acetate. The combined organic layer was washed with 20 ml of water and then a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, 5 ml of diisopropyl ether and 5 ml of diethyl ether were added to the resulting residue and the crystals were collected by filtration to obtain 3.7 g of 1-(2-azidoethyl)-4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazine as colorless crystals.

reactant | 1-(2-bromoethyl)-4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazine | 4.5 g | BrCCN1C(C(N(CC1)CC1=C(C=C(C=C1)OC)OC)=O)=O | C15H19BrN2O4
reactant | sodium azide | 1.03 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 1-(2-azidoethyl)-4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazine | 3.7 g | N(=[N+]=[N-])CCN1C(C(N(CC1)CC1=C(C=C(C=C1)OC)OC)=O)=O | C15H19N5O4
